US07598264B2
Step 4: 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid
To a solution of ethyl 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate (1.15 g, 2.96 mmol) in 1:1:1 MeOH/H2O/THF (15 mL) was added LiOH (0.37 g, 8.88 mmol) and the solution was stirred for 2 hours. A solution of 1 N HCl (8.9 mL) was added, the solution was concentrated and CHCl3 and 10% KHSO4 were added. The layers were separated and the aqueous was extracted repeatedly. The combined organic layers were filtered and the solid collected. The remaining organic was dried over Na2SO4, filtered, combined with the collected solid and evaporated to give the crude product.

reactant | ethyl 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylate | 2.96 mmol, 1.15 g | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)OCC)C)=O)OC)=O)C=C1 | C20H21FN2O5
reactant | LiOH | 8.88 mmol, 0.37 g | [Li+].[OH-]
reactant | HCl | 1 N, 8.9 mL | Cl | ClH
solvent | MeOH H2O THF | 15 mL | CO.O.C1CCOC1
product | 6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridine-1-carboxylic acid | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)C(=O)O)C)=O)OC)=O)C=C1 | C18H17FN2O5
